US05326760
(a) 2-(R)-[1-(S)-(Benzylamino)carbonyl-3-methyl-butylamino]-4-(5-benzenesulfonylamino-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-butanoic acid-1,1-dimethylethyl ester
58 mg of 2-[1-(benzylamino)carbonyl-3-methyl-butylamino]-4-(5-amino-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-butanoic acid-1,1-dimethylethyl ester, prepared as in Example 73 where the protecting group Rp, 1,1-dimethylethyl, was not removed following the condensation reaction seen in Scheme 2, was added to 4 mL dichloromethane under nitrogen. The mixture was cooled to 0° C. and 0.015 mL benzenesulfonyl chloride was added immediately followed by 0.1 mL pyridine. The mixture was allowed to warm to room temperature and was stirred for 18 h. The solvent was removed by evaporation and the residue was purified by reverse phase H.P.L.C. The solvent was removed by evaporation to afford the title compound; 31.8 mg

reactant | 2-[1-(benzylamino)carbonyl-3-methyl-butylamino]-4-(5-amino-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-butanoic acid-1,1-dimethylethyl ester | 58 mg | CC(C)(C)OC(C(CCN1C(C2=CC=C(C=C2C1=O)N)=O)NC(CC(C)C)C(=O)NCC1=CC=CC=C1)=O | C29H38N4O5
reactant | dichloromethane | 4 mL | ClCCl | CH2Cl2
reactant | benzenesulfonyl chloride | 0.015 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | pyridine | 0.1 mL | N1=CC=CC=C1 | C5H5N
product | 2-(R)-[1-(S)-(Benzylamino)carbonyl-3-methyl-butylamino]-4-(5-benzenesulfonylamino-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-butanoic acid-1,1-dimethylethyl ester | CC(C)(C)OC([C@@H](CCN1C(C2=CC=C(C=C2C1=O)NS(=O)(=O)C1=CC=CC=C1)=O)N[C@@H](CC(C)C)C(=O)NCC1=CC=CC=C1)=O | C35H42N4O7S
